US09062028B2
Step E. 3-Bromobenzyl 4-nitrophenyl carbonate
To a solution of (3-bromophenyl)methanol (10 g, 53.5 mmol) and pyridine (8.65 mL, 107 mmol) in DCM (80 mL) at 0° C. was added a solution of 4-nitrophenyl carbonochloridate (12.93 g, 64.2 mmol) in DCM (20 mL) dropwise. Upon the completion of addition, the reaction mixture was stirred at 0° C. for 2 h. After this time, the reaction was quenched with water. The organic layer was separated and washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated to afford the title compound (19.5 g, 100%). 1H NMR (400 MHz, CDCl3) δ 8.31-8.29 (m, 1H), 8.28-8.25 (m, 1H), 7.61 (t, J=1.6 Hz, 1H), 7.53 (d, J=8.2 Hz, 1H), 7.42-7.34 (m, 3H), 7.30 (d, J=7.8 Hz, 1H), 5.26 (s, 2H).

reactant | (3-bromophenyl)methanol | 53.5 mmol, 10 g | BrC=1C=C(C=CC1)CO | C7H7BrO
reactant | pyridine | 107 mmol, 8.65 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl carbonochloridate | 64.2 mmol, 12.93 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromobenzyl 4-nitrophenyl carbonate | 19.5 g, 100% | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
